US07473711B2
2-Phenoxymethyl-oxirane (0.15 g, 1.00 mMol) and sodium methoxide (0.054 g, 1.00 mMol) were dissolved in 10 ml of MeOH, then the reaction mixture was refluxed for 3 hours. The solvent MeOH was removed and the residue was extracted with ethyl acetate (3×20 ml), it was washed with brine, dried over MgSO4. The crude product was purified by column (25% EtOAc/Hexane) to yield 1-methoxy-3-phenoxy-propan-2-ol, whose structure is depicted below:

reactant | 2-Phenoxymethyl-oxirane | 1.00 mMol, 0.15 g | O(C1=CC=CC=C1)CC1OC1 | C9H10O2
reactant | sodium methoxide | 1.00 mMol, 0.054 g | C[O-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | 1-methoxy-3-phenoxy-propan-2-ol | COCC(COC1=CC=CC=C1)O | C10H14O3
